US08222424B2
2-Chloro-N-[2-(4-fluoro-phenyl)-ethyl]-5-(4-methoxy-benzoyl)-benzenesulfonamide
The title compound is prepared as described for 2-chloro-5-(4-methoxy-benzoyl)-N-phenethyl-benzenesulfonamide, except using 4-fluoro-phenethylamine. 1H NMR (CDCl3): δ 8.4 (m, 1H), 7.90 (m, 1H), 7.80 (d, J=8 Hz, 2H), 7.60 (m, 1H), 7.08 (m, J=8 Hz, 2H), 7.00 (m, 3H), 4.97 (m, 1H), 3.91 (s, 3H), 3.20 (m, 2H), 2.80 (m, 2H). Analytics calculated for C22H19ClFNO4S: C, 58.99; H, 4.28; N, 3.13. Found: C, 58.58; H, 4.33; N, 3.12. MS (m/z): 448.0 (M+1)−.

reactant | 2-chloro-5-(4-methoxy-benzoyl)-N-phenethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)NCCC1=CC=CC=C1 | C22H20ClNO4S
reactant | 4-fluoro-phenethylamine | FC1=CC=C(CCN)C=C1 | C8H10FN
product | 2-Chloro-N-[2-(4-fluoro-phenyl)-ethyl]-5-(4-methoxy-benzoyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)NCCC1=CC=C(C=C1)F | C22H19ClFNO4S
